US09145415B2
To (S)-tert-butyl (1-((5-(2-((1H-benzo[d][1,2,3]triazol-1-yl)oxy)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)(methyl)carbamate (K3, 50 mg), a 2.0 mol/L solution of methylamine in tetrahydrofuran (1 mL) was added at room temperature, the reaction vessel was sealed, and then the mixture was stirred at 50° C. for 5 hours by using a microwave reaction system. The reaction mixture was cooled to room temperature, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 40 to 0% hexane in ethyl acetate) to obtain oily (S)-tert-butyl methyl(1-((5-(2-(methylamino)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)carbamate (K4, 35 mg).

reactant | (S)-tert-butyl (1-((5-(2-((1H-benzo[d][1,2,3]triazol-1-yl)oxy)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 50 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NCCC)C#CCCCNC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C27H36N8O4
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (S)-tert-butyl methyl(1-((5-(2-(methylamino)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)carbamate | 35 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)NCCCC#CC=1C(=NC(=NC1)NC)NCCC)C | C22H36N6O3
